US07601856B2
Following the procedure of Example 1, 7,8,9,10-tetrahydro-6H-benzo[b]-cyclohepta[d]furan-2-ylamine (0.91 g, 4.5 mmol) and cyclohexylacetyl chloride (0.80 g, 5.0 mmol) in pyridine (10 mL) provided 2-cyclohexyl-N-[7,8,9,10-tetrahydro-6H-benzo[b]-cyclohepta[d]furan-2-yl]acetamide (0.53 g). Mp 188-189° C.; Anal. Calcd. for C21H27NO2: C, 77.50; H, 8.36; N, 4.30; Found: C, 77.51; H, 8.43; N, 4.32.

reactant | 7,8,9,10-tetrahydro-6H-benzo[b]-cyclohepta[d]furan-2-ylamine | 4.5 mmol, 0.91 g | C1=C(C=CC=2OC3=C(C21)CCCCC3)N | C13H15NO
reactant | cyclohexylacetyl chloride | 5.0 mmol, 0.80 g | C1(CCCCC1)CC(=O)Cl | C8H13ClO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-cyclohexyl-N-[7,8,9,10-tetrahydro-6H-benzo[b]-cyclohepta[d]furan-2-yl]acetamide | 0.53 g | C1(CCCCC1)CC(=O)NC1=CC2=C(OC3=C2CCCCC3)C=C1 | C21H27NO2
